US07071182B2
1-(2-morpholin-4-yl-ethyl)-4-nitro-1H-indazole
4-Nitroindazole (1.00 g, 6.13 mmol) and potassium carbonate (2.55 g, 18.4 mmol) in 15 mL of DMF was stirred for 30 min, after which 4-(2-chloro-ethyl)-morpholine hydrochloride (1.71 g, 9.19 mmol) was added. The reaction mixture was heated to 60° C. for 6 hours, cooled to room temperature and filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4). The combined filtrate was concentrated under reduced pressure and the residue purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30). 1H NMR (300 MHz, DMSO-D6) δ ppm 2.41 (m, 4 H), 2.79 (t, J=6.27 Hz, 2 H), 3.44 (m, 4 H), 4.66 (t, J=6.27 Hz, 2 H), 7.65 (m, 1 H), 8.17 (m, 1 H), 8.29 (m, 1 H), 8.52 (s, 1 H); MS (DCI/NH3) m/z 277 [M+H]+.

reactant | 4-Nitroindazole | 6.13 mmol, 1.00 g | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
reactant | potassium carbonate | 18.4 mmol, 2.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-chloro-ethyl)-morpholine hydrochloride | 9.19 mmol, 1.71 g | Cl.ClCCN1CCOCC1
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(2-morpholin-4-yl-ethyl)-4-nitro-1H-indazole | N1(CCOCC1)CCN1N=CC2=C(C=CC=C12)[N+](=O)[O-] | C13H16N4O3
